US06331538B1
1-(4-Fluorophenyl)-6-fluoro-3-hydroxy-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione
Using the General Method 6A, the reaction of 10% Pd/C (0.027 g) with 1-(4-fluorophenyl)-6-fluoro-3-benzyloxy-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione (Example L-1, 0.08 g, 0.18 mmol) afforded 0.05 g of the title compound as a solid, mp 183-185° C.

reactant | 1-(4-fluorophenyl)-6-fluoro-3-benzyloxy-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione | 0.18 mmol, 0.08 g | FC1=CC=C(C=C1)N1C(N(C(C2=CC(=C(C=C12)N1CCCC1)F)=O)OCC1=CC=CC=C1)=O | C25H21F2N3O3
catalyst | Pd/C | 0.027 g | [Pd] | Pd
product | 1-(4-Fluorophenyl)-6-fluoro-3-hydroxy-7-pyrrolidin-1-yl-1H-quinazoline-2,4-dione | 0.05 g | FC1=CC=C(C=C1)N1C(N(C(C2=CC(=C(C=C12)N1CCCC1)F)=O)O)=O | C18H15F2N3O3
